US07462600B2
Preparation 12: imidazo[1,2-a]-pyrazine-3-carbaldehyde
Imidazo[1,2-a]-pyrazine (0.30 g, 2.5 mmol) was dissolved in anhydrous DMF (10.0 mL) and added to a preformed solution of phosphorous oxychloride (0.26 mL, 2.8 mmol) in anhydrous DMF (10.0 mL). The solution was allowed to stir 72 h under nitrogen at RT. The solution was then poured into water (100 mL) and residual organics extracted with diethyl ether (3×30 mL). The remaining aqueous portion was concentrated to dryness under a nitrogen stream to yield the title compound (0.050 g). MS (ESI+) for m/z 148 (M+H)+.

reactant | Imidazo[1,2-a]-pyrazine | 2.5 mmol, 0.30 g | N=1C=CN2C1C=NC=C2 | C6H5N3
reactant | phosphorous oxychloride | 2.8 mmol, 0.26 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 100 mL | O | H2O
reactant | DMF | 10.0 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | imidazo[1,2-a]-pyrazine-3-carbaldehyde | 0.050 g | N=1C=C(N2C1C=NC=C2)C=O | C7H5N3O
